US06784183B2
Step a: 4-(5-{[(3-Chloro-4-methylanilino)carbonyl]amino}-2-methoxyphenyl)-1-piperazinecarboxylic acid tert-butanolate
A solution of 34.4 mmol (10 g) of 4-(5-amino-2-methoxyphenyl)piperazine-1-carboxylic acid tert-butanolate (described in J. Med. Chem., 1999, p.202) and 37.8 mmol (5.9 g) of 3-chloro-4-methylphenyl isocyanate in 150 ml of toluene is heated at reflux for 2 hours. The reaction mixture is concentrated, and the residue is taken up in 200 ml of 4N hydrochloric acid and then heated at reflux for 4 hours. After cooling, the precipitate formed is filtered off and treated with a 2N sodium hydroxide solution in order to regenerate the corresponding base.

reactant | 4-(5-amino-2-methoxyphenyl)piperazine-1-carboxylic acid tert-butanolate | 34.4 mmol, 10 g | C(C)(C)(C)[O-].NC=1C=CC(=C(C1)N1CCN(CC1)C(=O)O)OC
reactant | 3-chloro-4-methylphenyl isocyanate | 37.8 mmol, 5.9 g | ClC=1C=C(C=CC1C)N=C=O | C8H6ClNO
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(5-{[(3-Chloro-4-methylanilino)carbonyl]amino}-2-methoxyphenyl)-1-piperazinecarboxylic acid tert-butanolate | C(C)(C)(C)[O-].ClC=1C=C(NC(=O)NC=2C=CC(=C(C2)N2CCN(CC2)C(=O)O)OC)C=CC1C | InChI=1S/C20H23ClN4O4.C4H9O/c1-13-3-4-14(11-16(13)21)22-19(26)23-15-5-6-18(29-2)17(12-15)24-7-9-25(10-8-24)20(27)28;1-4(2,3)5/h3-6,11-12H,7-10H2,1-2H3,(H,27,28)(H2,22,23,26);1-3H3/q;-1
